US06878715B1
To a stirred suspension of (R)-3-(5-acetoxyhexyl)-6-amino-1-methyl-5-nitroso-uracil (prepared as described for CT12452) (23.35 g, 74.8 mmol) in water (230 ml) at 60° C. was added sodium hydrosulfide (61.7 g) in portions. After heating at 60° C. for additional 1 hour, the reaction mixture was cooled to 0-5° C. Chloroform (240 ml) was added followed by potassium carbonate (51.8 g), 37.5 mmol) in portions. The reaction mixture was stirred at 0-5° C. for additional 0.5 hour whereupon benzyloxyacetyl chloride (20.7 g, 112 mmol) was added dropwise. After stirring at 0-5° C. for an additional 1 hour, the mixture was extracted with 10% methanol-chloroform solution (1100 ml). The aqueous phase was further extracted with 10% methanol-chloroform solution (3×250 ml). The combined organic extracts were evaporated under reduced pressure to provide a beige solid which was dissolved in 10% aqueous sodium hydroxide solution (500 ml) and heated at reflux for 0.5 hour. After cooling to 0-5° C., the pH was adjusted to 2-3 by addition of concentrated hydrochloric acid and the mixture was extracted with ethyl acetate (5×250 ml). The combined extracts were washed with saturated aqueous sodium chloride solution (100 ml), dried over magnesium sulfate, and concentrated under reduced pressure to provide a crude product. Recrystallization (ethyl acetate-hexane) provided (R)-8-benzyloxymethyl-1-(5-hydroxyhexyl)-3-methylxanthine (22.0 g, 77% yield) as a white solid.

reactant | (R)-3-(5-acetoxyhexyl)-6-amino-1-methyl-5-nitroso-uracil | 74.8 mmol, 23.35 g | C(C)(=O)O[C@@H](CCCCN1C(N(C(=C(C1=O)N=O)N)C)=O)C | C13H20N4O5
reactant | sodium hydrosulfide | 61.7 g | [SH-].[Na+]
reactant | potassium carbonate | 51.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyloxyacetyl chloride | 112 mmol, 20.7 g | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 230 ml | O | H2O
solvent | sodium hydroxide | 500 ml | [OH-].[Na+]
solvent | Chloroform | 240 ml | C(Cl)(Cl)Cl | CHCl3
product | (R)-8-benzyloxymethyl-1-(5-hydroxyhexyl)-3-methylxanthine | 22.0 g, 77% yield | C(C1=CC=CC=C1)OCC1=NC=2N(C(N(C(C2N1)=O)CCCC[C@@H](C)O)=O)C | C20H26N4O4
